US08013003B2
N-Cycloheptyl-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide
To a solution of cycloheptanone (1.12 g, 10 mmol) in 40 ml of ethanol was added a methylamine (2.5 ml of a 33% solution in ethanol) and 220 mg of Pd on C (10%) were added, and the mixture hydrogenated at 50 psi over night. The solids were filtered off and the mixture concentrated under vacuum to give a pale yellow oil. This material and 1.2 ml of triethylamine were dissolved in 10 ml of dichloromethane and a solution of [2,1,3]-benzoxadiazole-5-carbonylchloride (730 mg, 4 mmol) was added slowly. After stirring the mixture for 2 hours, the organic phase was washed with 1N HCl and conc. NaHCO3 solution, dried over magnesium sulfate, and then concentrated under vacuum to give a white solid, after trituration with ether (405 mg, 37%). Mp: 80-81° C., 1H NMR (300 MHz, CDCl3, rotamers) δ 7.93 (m, 1H); 7.80 (s, 1H); 7.43-7.37 (m, 1H); 4.75-4.60 and 3.70-3.55 (m+m, 1H); 3.01 and 2.87 (s+s, 3H); 2.00-1.20 ppm (m, 12H).

reactant | cycloheptanone | 10 mmol, 1.12 g | C1(CCCCCC1)=O | C7H12O
reactant | methylamine | CN | CH5N
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | 4 mmol, 730 mg | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | Pd | 220 mg | [Pd] | Pd
solvent | ether | 405 mg | CCOCC | C4H10O
product | N-Cycloheptyl-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide | C1(CCCCCC1)N(C(=O)C1=CC=2C(=NON2)C=C1)C | C15H19N3O2
